US08877782B2
6-(3-Phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 90, 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.26 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester was converted, using 4-aminotetrahydropyran instead of cyclopropylmethylamine, to the title compound (111 mg, 94%) which was obtained as a white solid. MS: m/e=448.3 [M+H]+.

reactant | 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.26 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(3-Phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 111 mg, 94% | C1(=CC=CC=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1)C(F)(F)F | C22H20F3N3O4
